US04072685
A mixture of 4 g of N-propyl-3-(3',4'-dimethoxyphenyl)-piperidine and 40 ml of 66% hydrobromic acid acid was refluxed for an hour and was then evaporated to dryness. The residue was crystallized from isopropanol to obtain 4.4 g of N-propyl-3-(3',4'-dihydroxyphenyl)-piperidine hydrobromide melting at 211° C.

reactant | N-propyl-3-(3',4'-dimethoxyphenyl)-piperidine | 4 g | C(CC)N1CC(CCC1)C1=CC(=C(C=C1)OC)OC | C16H25NO2
reactant | hydrobromic acid | 40 ml | Br | BrH
product | N-propyl-3-(3',4'-dihydroxyphenyl)-piperidine hydrobromide | 4.4 g | Br.C(CC)N1CC(CCC1)C1=CC(=C(C=C1)O)O | InChI=1S/C14H21NO2.BrH/c1-2-7-15-8-3-4-12(10-15)11-5-6-13(16)14(17)9-11;/h5-6,9,12,16-17H,2-4,7-8,10H2,1H3;1H
